US06180635B2
b) 1,2,3,4-Tetrahydro-3,N,N-trimethyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxamide
Oxalyl chloride (0.087 ml) was added to a stirred solution of 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid (0.37 g) and dimethylformamide (0.01 ml) in anhydrous dichloromethane (20 ml). After 1 hour, the solution was evaporated. The residue was dissolved in anhydrous tetrahydrofuran (7 ml) and 1 ml of this solution was added to a stirred mixture of 40% aqueous dimethylamine solution (1 ml) and saturated sodium hydrogen carbonate solution (2 ml). After 30 minutes water (10 ml) was added and the mixture was extracted with ethyl acetate (10 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was recrystallised from ethyl acetate/isohexane to give the title compound (0.025 g).

reactant | Oxalyl chloride | 0.087 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid | 0.37 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC=C2)C(=O)O)CC(C)C)=O | C19H20N2O4S
reactant | dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-3,N,N-trimethyl-1-(2-methylpropyl)-6-phenylmethyl-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxamide | 0.025 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC=C2)C(=O)N(C)C)CC(C)C)=O | C21H25N3O3S
